US05207947
(2) Synthesis of 2-n-decyloxy-6-carboxynaphthalene
After a solution of decylmonobromide (7 g), 2-hydroxy-6-carboxynaphthalene (2 g) and anhydrous potassium carbonate (4 g) in dimethylformamide (100 ml) was stirred at 130° C. for two hours, it was poured in water. Dilute aqueous hydrochloric acid solution was added thereto until the solution was neutral. To the solution was added diethylether in order to effect extraction. The extracted layer was distilled to remove the solvent. The residue was added to a solution of sodium hydroxide (3.3 g) in water (10 ml) and ethanol (50 ml). The mixture was refluxed for about one day. Thereto was added dilute aqueous hydrochloric acid solution until the solution was neutral. The solution was distilled to remove the solvent and concentrated. Solid precipitate was collected and recrystallized from water-ethanol mixture to obtain the titled compound (2.4 g).

reactant | decylmonobromide | 7 g | C(CCCCCCCCC)Br | C10H21Br
reactant | 2-hydroxy-6-carboxynaphthalene | 2 g | OC1=CC2=CC=C(C=C2C=C1)C(=O)O | C11H8O3
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | diethylether | C(C)OCC | C4H10O
product | 2-n-decyloxy-6-carboxynaphthalene | 2.4 g | C(CCCCCCCCC)OC1=CC2=CC=C(C=C2C=C1)C(=O)O | C21H28O3
